US05789592
Preparation of diethyl-4-bromo-2,2'-bipyridine-4'-phosphonate, a Compound of Formula 2.
2.0 g of 4,4'-dibromo-2,2-bipyridine (6.4 mmol), 0.9g of palladium tetrakistriphenylphosphine (0.8 mmol), 3.14 g of diethylphosphite (23 mmol) and 2.34 g of triethylamine (23 mmol) are measured into an argon filled 50 ml round bottom. flask, equipped with a cold finger (10 cm) and magnetic stirrer. This is heated on a 98° C. oil bath for 3 hours. The reaction is monitored with TLC on silica gel plates, DCM: MeOH (10:1), Rf-Lb=0.73. This is then cooled back to room temperature, and then the solidified mixture is added to 25 mls of methanol, stirred for 10 min. and evaporated to dryness under reduced pressure.

reactant | 4,4'-dibromo-2,2-bipyridine | 6.4 mmol, 2.0 g | BrC1=CC(=NC=C1)C1=NC=CC(=C1)Br | C10H6Br2N2
reactant | diethylphosphite | 23 mmol, 3.14 g | C(C)OP(OCC)[O-]
reactant | triethylamine | 23 mmol, 2.34 g | C(C)N(CC)CC | C6H15N
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | methanol | 25 mls | CO | CH4O
product | diethyl-4-bromo-2,2'-bipyridine-4'-phosphonate | C(C)OP(OCC)(=O)C1=CC(=NC=C1)C1=NC=CC(=C1)Br | C14H16BrN2O3P
